US09085555B2
(1-Carbamoyl-5-fluoro-1H-indol-3-yl)-acetic acid
was prepared in a similar manner as described in Scheme A8 Step B for (1-carbamoyl-1H-indol-3-yl)-acetic acid starting from (1-carbamoyl-5-fluoro-1H-indol-3-yl)-acetic acid ethyl ester. The crude product (yellowish solid) obtained after extractive work-up was used directly in the next step without purification. MS: 236.9 [M+H]+; tR (HPLC conditions b) 2.4 min.

reactant | (1-carbamoyl-1H-indol-3-yl)-acetic acid | C(N)(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C11H10N2O3
reactant | (1-carbamoyl-5-fluoro-1H-indol-3-yl)-acetic acid ethyl ester | C(C)OC(CC1=CN(C2=CC=C(C=C12)F)C(N)=O)=O | C13H13FN2O3
product | (1-Carbamoyl-5-fluoro-1H-indol-3-yl)-acetic acid | C(N)(=O)N1C=C(C2=CC(=CC=C12)F)CC(=O)O | C11H9FN2O3
